US06525042B1
Methyl 4-trifluoromethanesulfonyloxybenzoate
In dichloromethane (20 ml), methyl 4-hydroxybenzoate (1.99 g) was dissolved, followed by the addition of pyridine (2.4 ml) and trifluoromethanesulfonic anhydride (3.0 ml) under ice cooling. After stirring at room temperature for 6 hours, the reaction mixture was added with pyridine (1.5 ml) and trifluoromethanesulfonic anhydride (1.0 ml) again. The resulting mixture was stirred for 5 hours. Dichloromethane and an aqueous solution of sodium bicarbonate were added to the reaction mixture. The organic layer so separated was washed with a 10% aqueous citric acid solution and saturated saline and dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (5% ethyl acetate-hexane), whereby the title compound (3.22 g, 86%) was obtained.

reactant | methyl 4-hydroxybenzoate | 1.99 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 3.0 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.0 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl 4-trifluoromethanesulfonyloxybenzoate | FC(S(=O)(=O)OC1=CC=C(C(=O)OC)C=C1)(F)F | C9H7F3O5S
